US07807693B2
(b) methyl (1,2-dimethyl-1,2,3,4-tetrahydro-isoquinoline-6-yl)-carbamate
A mixture of 1.00 g (4.5 mmol) methyl (1-methyl-3,4-dihydro-isoquinolin-6-yl)-carbamate, 2.3 ml (37 mmol) methyl iodide and 25 ml EtOAc is stirred for 72 h. The crystals precipitated are filtered off, taken up in 10 ml of methanol and 140 mg (3.6 mmol) sodium borohydride are added batchwise. After 2 h the mixture is concentrated and purified by chromatography (silica gel; dichloromethane/methanol 90:10).

reactant | methyl (1-methyl-3,4-dihydro-isoquinolin-6-yl)-carbamate | 4.5 mmol, 1.00 g | CC1=NCCC2=CC(=CC=C12)NC(OC)=O | C12H14N2O2
reactant | methyl iodide | 37 mmol, 2.3 ml | CI | CH3I
reactant | sodium borohydride | 3.6 mmol, 140 mg | [BH4-].[Na+]
solvent | EtOAc | 25 ml | CCOC(=O)C | C4H8O2
product | methyl (1,2-dimethyl-1,2,3,4-tetrahydro-isoquinoline-6-yl)-carbamate | CC1N(CCC2=CC(=CC=C12)NC(OC)=O)C | C13H18N2O2
